US08710236B2
To a stirred solution of 4-[2-Benzyloxycarbonyl-2-(4-isobutyl-phenyl)-vinyl]-benzoic acid methyl ester (1.8 g, 4.2 mmol) in acetic acid (30 mL) was added palladium on activated carbon (˜150 mg). The flask was purged with hydrogen and stirred under hydrogen atmosphere for 18 h. TLC and LC/MS analysis indicated that the reaction had gone to completion. The reaction was filtered through celite and concentrated by rotary evaporation. Toluene (100 mL) was added and the reaction was concentrated to dryness yielding 4-[2-Carboxy-2-(4-isobutyl-phenyl)-ethyl]-benzoic acid methyl ester as a colorless solid, 1.33 g (93%). LC-MS m/z=341 [C21H24O4+H]+.

reactant | 4-[2-Benzyloxycarbonyl-2-(4-isobutyl-phenyl)-vinyl]-benzoic acid methyl ester | 4.2 mmol, 1.8 g | COC(C1=CC=C(C=C1)C=C(C1=CC=C(C=C1)CC(C)C)C(=O)OCC1=CC=CC=C1)=O | C28H28O4
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on activated carbon | ˜150 mg | [Pd] | Pd
product | 4-[2-Carboxy-2-(4-isobutyl-phenyl)-ethyl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)CC(C1=CC=C(C=C1)CC(C)C)C(=O)O)=O | C21H24O4
